US07183276B2
A mixture of 3-[4-(4-chlorophenyl)-2-(3,5-dimethyl-1H-pyrazol-1-yl)-5-oxazolyl]propionic acid (51.5 mg), 1-hydroxy-7-aza-1H-1,2,3-benzotriazole (41 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (46 mg), 4-[(1-methyl-4-piperidinyl)methyl]piperazine (60 mg) and N,N-dimethylformamide (0.5 ml) was stirred overnight at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was concentrated, introduced into preparative HPLC and purified. Ethyl acetate was added to the obtained oil and the mixture was washed with saturated aqueous sodium hydrogen carbonate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated to give 1-{3-[4-(4-chlorophenyl)-2-(3,5-dimethyl-1H-pyrazol-1-yl)-5-oxazolyl]propanoyl}-4-[(1-methyl-4-piperidinyl)methyl]piperazine (54.5 mg, yield 72%). Recrystallization from ethanol-isopropyl ether gave colorless prism crystals. melting point: 126–127° c.

reactant | 3-[4-(4-chlorophenyl)-2-(3,5-dimethyl-1H-pyrazol-1-yl)-5-oxazolyl]propionic acid | 51.5 mg | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)N1N=C(C=C1C)C | C17H16ClN3O3
reactant | 1-hydroxy-7-aza-1H-1,2,3-benzotriazole | 41 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 46 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 4-[(1-methyl-4-piperidinyl)methyl]piperazine | 60 mg | CN1CCC(CC1)CN1CCNCC1 | C11H23N3
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 1-{3-[4-(4-chlorophenyl)-2-(3,5-dimethyl-1H-pyrazol-1-yl)-5-oxazolyl]propanoyl}-4-[(1-methyl-4-piperidinyl)methyl]piperazine | 54.5 mg, yield 72% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)N1CCN(CC1)CC1CCN(CC1)C)N1N=C(C=C1C)C | C28H37ClN6O2
